US05081099
Synthesis of 2-(2-phenylthioethoxy)-5,6,7,8-tetrahydronaphthalene
5.1 g (0.033 mol) of 2-phenylthioethanol, 3.7 g (0.025 mol) of 5,6,7,8-tetrahydro-β-naphthol and 7.9 g (0.03 mol) of triphenylphosphine were dissolved in 60 g of diethyl ether and a solution of 5.2 g (0.03 mol) of diethyl azodicarboxylate in diethyl ether was added dropwise to the solution at room temperature.

reactant | 2-phenylthioethanol | 0.033 mol, 5.1 g | C1(=CC=CC=C1)SCCO | C8H10OS
reactant | 5,6,7,8-tetrahydro-β-naphthol | 0.025 mol, 3.7 g | C1=C(C=CC=2CCCCC12)O | C10H12O
reactant | triphenylphosphine | 0.03 mol, 7.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.03 mol, 5.2 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | diethyl ether | 60 g | C(C)OCC | C4H10O
product | 2-(2-phenylthioethoxy)-5,6,7,8-tetrahydronaphthalene | C1(=CC=CC=C1)SCCOC1=CC=2CCCCC2C=C1 | C18H20OS
